2144-06-29 07:47:00 Physician Resident Progress Note
Chief Complaint: cardiac tamponade s/p pericardiocentesis, lung cancer,
   CAP
   24 Hour Events:
 INVASIVE VENTILATION - START [**2144-6-28**] 11:30 PM
 ARTERIAL LINE - START [**2144-6-29**] 12:55 AM
 PA CATHETER - START [**2144-6-29**] 12:56 AM
   -BP swings from 80 - 145 systolic, likely related to propofol. Gave
   500cc fluid.
   -Hct drop from 25.5 --> 22.7
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-6-29**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.6
C (97.8
   HR: 79 (72 - 99) bpm
   BP: 100/49(68) {94/49(68) - 179/98(124)} mmHg
   RR: 16 (14 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 17 (14 - 18)mmHg
   PAP: (33 mmHg) / (24 mmHg)
   PCWP: 21 (21 - 21) mmHg
   CO/CI (Fick): (5.7 L/min) / (2.9 L/min/m2)
   Mixed Venous O2% Sat: 55 - 55
   Total In:
                                                                  2,463 mL
   PO:
   TF:
   IVF:
                                                                    863 mL
   Blood products:
   Total out:
                                                                    745 mL
                                                                    738 mL
   Urine:
                                                                    635 mL
   NG:
   Stool:
   Drains:
                                                                    620 mL
                                                                    103 mL
   Balance:
                                                                   -745 mL
                                                                  1,725 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 32 cmH2O
   Plateau: 24 cmH2O
   SpO2: 100%
   ABG: 7.42/31/116/19/-2
   Ve: 6.8 L/min
   PaO2 / FiO2: 290
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   387 K/uL
   7.1 g/dL
   113 mg/dL
   1.3 mg/dL
   19 mEq/L
   4.6 mEq/L
   58 mg/dL
   115 mEq/L
   144 mEq/L
   22.7 %
   9.6 K/uL
        [image002.jpg]
                             [**2144-6-28**]  09:24 PM
                             [**2144-6-28**]  10:14 PM
                             [**2144-6-28**]  11:30 PM
                             [**2144-6-28**]  11:48 PM
                             [**2144-6-29**]  05:49 AM
                             [**2144-6-29**]  06:02 AM
   WBC
   12.5
   9.6
   Hct
   25.5
   22.7
   Plt
   475
   387
   Cr
   1.3
   1.3
   TropT
   <0.01
   0.01
   TCO2
   21
   21
   21
   21
   Glucose
   159
   137
   114
   113
   Other labs: PT / PTT / INR:15.9/28.6/1.4, CK / CKMB /
   Troponin-T:61//0.01, ALT / AST:66/65, Alk Phos / T Bili:107/0.3, Lactic
   Acid:0.9 mmol/L, Albumin:3.6 g/dL, LDH:247 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.6 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 PERICARDIAL EFFUSION WITH TAMPONADE
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   This is an 83 year old lady with a history of HTN, dyslipidemia and
   lung cancer s/p RLL resection who p/w to OSH with SOB and low BP and
   found to have a large pericardial effusion with cardiac tamponade,
   likely of malignant etiology, for which she was transferred here for
   pericardiocentesis. On arrival there are few prior hospital records
   available. She underwent pericardiocentesis in the cath lab, and 600cc
   of bloody fluid were removed resulting in normalization of systemic and
   pulmonary pressures.
   Cardiac Tamponade: Large pericardial effusion with tamponade
   physiology, likely malignant in etiology although the broad
   differential includes viral pericarditis given recent cough. Now
   hemodynamically stable s/p pericardiocentesis, with swan-ganz and
   A-line catheters in place.
   -Echo in AM
   -f/u CXR
   -f/u EKG
   -plan to tranfuse 1U pRBC today and recheck post-transfusion Hct
   -Follow pericardial drain output
   -f/u cytology from pericardial fluid
   - plan to remove swan today
   -Monitor hemodynamics on tele
   -Contact PCP and OSH for records
   -Holding home ACE due to hypotension
   CORONARIES: No prior history of CAD and no CP during this episode.
   Cardiac enzymes negative for ACS.
   -cont simvastatin
   RHYTHM: NSR since admission, no known h/o arrhythmia.
   -Monitor on tele
   -repeat EKG in AM
   RUL opacity: Read as likely post-obstructive pneumonia, which is
   consistent with progressive cough and dyspnea, elevated WBC and
   infiltrate on CXR. Likely a community-acquired pneumonia. Remains
   afebrile, WBC trending down.
   -CTX and Azithromycin for 14d course
   - sputum cx
   -follow fever curve and symptoms.
   -follow cultures
   -Discuss with PCP/oncologist in AM
   R Pleural effusion: Malignant vs fluid overload. Elevated BNP suggests
   some element of elevated atrial filling pressures consistent with
   tamponade physiology, but effusion is on the same side as the RUL mass
   and therefore may be malignant. Given tenuous BP in setting of
   pericardial effusion, will hold off on diuresis for now.
   -No diuresis for now
   -Correlate with OSH/[**Hospital 8333**] medical records
   [**Name9 (PRE) 8334**] Is/Os and clinical signs of HF progression
   UTI: U/A with WBCs and bacteria likely represents an uncomplicated UTI,
   appropriately covered by CTX for likely PNA.
   -continue antibiotics
   -f/u Ucx
   Respiratory Distress: Intubated in cath lab due to agitation and
   increased work of breathing with concurrent worsening acidosis.
   -Propofol for sedation
   -Will wean as tolerated
   -Consider removing groin lines later today if stable so pt can sit
   upright
   Acid/Base Disturbance: Normalizing today with pH 7.42/31/116. ABG post
   cath showed pH 7.26, down from 7.34 in ED with a lactate of 1.3 and
   normal PCO2. Given hypotension in the setting of cardiac tamponade,
   this may reflects a resolving lactic acidosis along with respiratory
   alkalosis in the setting of respiratory distress.
   -follow ABG
   -adjust vent settings as necessary
   .
   Anemia: Likely due to acute blood loss in setting of pericardial
   effusion and drainage. Likely also baseline chronic anemia given that
   she was taking iron pills at home.
   -transfuse 1U pRBC and recheck Hct
   -follow iron studies
   .
   Presumed ARF: Mild improvement O/N from 1.5 to 1.3. Baseline Cre
   unknown on admission, but a component of prerenal ARF is likely given
   hypotension in setting of tamponade. FeNa =0.3, consistent with a
   prerenal etiology.
   -follow Cre
   -renally dose meds
   DM-2: Continue home basal lantus dose with SSI coverage.
   .
   FEN: Tube feeds; replete lytes PRN.
   ACCESS: PIV's, L groin art-line, L groin CVL with swan
   PROPHYLAXIS:
   -DVT ppx with Heparin SC
   -Pain management with APAP
   -Bowel regimen with senna/colace
   CODE: Presumed full
   DISPO: CCU for now
   HCP: [**Name (NI) 186**] [**Telephone/Fax (1) 8335**]; Daughter [**Telephone/Fax (1) 8336**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2144-6-29**] 12:55 AM
   PA Catheter - [**2144-6-29**] 12:56 AM
   18 Gauge - [**2144-6-29**] 12:57 AM
   20 Gauge - [**2144-6-29**] 12:58 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 575**].
   I would add the following remarks:
   History
   83 yr old white female with history of lung cancer had
   pericardiocentesis last night for tamponade.
   On antibiotics for ? postobstructive pneumonia.
   Physical Examination
   intubated sedated
   pericardial drain in place.
   Medical Decision Making
   D/c drain and groin lines
   discuss mgmt with pulmonary'
   move to extubation.
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Last Name (NamePattern1) 2736**], MD
   on:[**2144-6-29**] 11:06 ------

2144-06-30 06:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**6-29**]:
   - d/c'd femoral sheath, d/c'd swan
   - Echo: LVEF>55. There is an apical partially echofilled space which
   most likely represents a fat pad or apical thrombus. No evidence for
   tamponade physiology.
   Compared with the prior study (images reviewed but not similar
   orientation) of [**2144-6-28**], the findings are similar.
   - Called and left message for PCP but did not call or fax information
   back. So did not consult Pulm or call Onc
   - Around 9pm pt had resp distress, but CXR did not show significant
   effusions, afebrile w/ RUL pna and ABG good 7.41 /35/ 153. Thought resp
   distress [**2-10**] cardiac. Pt's pulsus was [**10-19**], and BP post procedure was
   140-160s, this AM sbp 100-110s, now low 90s. Thought [**2-10**] slowly
   worsening pericardial effusion. Gave 500ml fluid and BP inc to 120s and
   pt appeared much better. Spoke to [**First Name8 (NamePattern2) 1321**] [**Last Name (NamePattern1) **] who said to watch closely.
   - ECG low voltage but improved from [**6-28**].
   - Hct stable 30
   Allergies:
   Last dose of Antibiotics:
   Ceftriaxone - [**2144-6-29**] 09:30 AM
   Azithromycin - [**2144-6-29**] 10:10 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2144-6-29**] 11:09 AM
   Midazolam (Versed) - [**2144-6-29**] 11:09 AM
   Heparin Sodium (Prophylaxis) - [**2144-6-29**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-6-30**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.8
   HR: 99 (74 - 102) bpm
   BP: 110/46(69) {62/29(62) - 122/56(81)} mmHg
   RR: 25 (14 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99.8 kg (admission): 95.4 kg
   Height: 62 Inch
    CVP: 12 (12 - 18)mmHg
   PAP: (44 mmHg) / (19 mmHg)
   Mixed Venous O2% Sat: 59 - 59
   Total In:
                                                                  3,733 mL
                                                                    560 mL
   PO:
                                                                     90 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,923 mL
                                                                    500 mL
   Blood products:
   Total out:
                                                                  1,186 mL
                                                                    213 mL
   Urine:
                                                                  1,081 mL
                                                                    213 mL
   NG:
   Stool:
   Drains:
                                                                    105 mL
   Balance:
                                                                  2,547 mL
                                                                    347 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: Standby
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 376 (376 - 376) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 95%
   PIP: 11 cmH2O
   Plateau: 20 cmH2O
   SpO2: 99%
   ABG: 7.41/35/153/20/-1
   Ve: 9.2 L/min
   PaO2 / FiO2: 161
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: diffuse, coarse rhonchi anteriorly.
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   324 K/uL
   6.7 g/dL
   70 mg/dL
   1.0 mg/dL
   20 mEq/L
   4.5 mEq/L
   53 mg/dL
   117 mEq/L
   145 mEq/L
   21.0 %
   6.8 K/uL
        [image002.jpg]
                             [**2144-6-28**]  11:30 PM
                             [**2144-6-28**]  11:48 PM
                             [**2144-6-29**]  05:49 AM
                             [**2144-6-29**]  06:02 AM
                             [**2144-6-29**]  08:38 AM
                             [**2144-6-29**]  01:48 PM
                             [**2144-6-29**]  01:57 PM
                             [**2144-6-29**]  08:11 PM
                             [**2144-6-29**]  09:44 PM
                             [**2144-6-30**]  04:25 AM
   WBC
   12.5
   9.6
   12.3
   6.8
   Hct
   25.5
   22.7
   24.5
   26
   30.2
   24
   21.0
   Plt
   [**Telephone/Fax (3) 8366**]24
   Cr
   1.3
   1.3
   1.0
   TropT
   <0.01
   0.01
   TCO2
   21
   21
   21
   23
   Glucose
   137
   114
   113
   82
   70
   Other labs: PT / PTT / INR:16.7/32.9/1.5, CK / CKMB /
   Troponin-T:61//0.01, ALT / AST:66/65, Alk Phos / T Bili:107/0.3, Lactic
   Acid:0.9 mmol/L, Albumin:3.6 g/dL, LDH:247 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.6 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   This is an 83 year old lady with a history of HTN, dyslipidemia and
   lung cancer s/p RLL resection who p/w to OSH with SOB and low BP and
   found to have a large pericardial effusion with cardiac tamponade,
   likely of malignant etiology, for which she was transferred here for
   pericardiocentesis. On arrival there are few prior hospital records
   available. She underwent pericardiocentesis in the cath lab, and 600cc
   of bloody fluid were removed resulting in normalization of systemic and
   pulmonary pressures.
   Cardiac Tamponade: s/p pericardiocentesis. O/N some respiratory
   distress, BPs to 90-100s down from 120-130s, but recovered with
   stimulation. Hemodynamically stable this morning in 90s-100s. No pulsus
   on A-line tracing. Likely not a reaccumulation of pericardial effusion.
   -Hct trending down
 tx goal >21.0
   -f/u cytology from pericardial fluid
   -f/u records from PCP yesterday
   [**Name9 (PRE) 8372**] home ACE due to hypotension
   - Repeat echo today to evaluate for re-accumulation of pericardial
   effusion
   RUL PNA: Read as likely post-obstructive pneumonia, likely CAP. Remains
   afebrile, WBC trending down. Given respiratory distress o/n, will get
   pulm involved to consider options, e.g. bronchoscopy +/- stenting.
   - day 3 of Levo/Flagyl.
   - f/u again with PCP and family re: goals of care
   - pulm consult
   - sputum cx
   - follow fever curve and symptoms.
   - follow cultures
   R Pleural effusion: Malignant vs infectious. Given tenuous BP in
   setting of pericardial effusion, will hold off on diuresis for now.
   -f/u pulm rec
   UTI: U/A with WBCs and bacteria likely represents an uncomplicated UTI,
   appropriately covered by Levofloxacin for likely PNA.
   -continue antibiotics
   -f/u Ucx
   Respiratory Distress: Extubated, RR 18 this morning w/ strong cough.
   Requiring 95% FiO2 on FM.
   -cont atrovent, start albuterol nebs PRN
   -monitor on tele
   Acid/Base Disturbance: ABG today pH 7.34/41/87/23 on FiO2 95%. ABG post
   cath showed pH 7.26, down from 7.34 in ED with a lactate of 1.3 and
   normal PCO2. Given hypotension in the setting of cardiac tamponade,
   this may reflects a resolving lactic acidosis along with respiratory
   alkalosis in the setting of respiratory distress.
   -follow ABG
   -adjust vent settings as necessary
   .
   Anemia: Likely due to acute blood loss in setting of pericardial
   effusion and drainage. Likely also baseline chronic anemia given that
   she was taking iron pills at home. Hct 21 this morning but re-checked,
   now 23.4
   -trending down, transfusion goal Hct>21.0
   -follow iron studies
   .
   CORONARIES: No prior history of CAD and no CP during this episode.
   Cardiac enzymes negative for ACS.
   -cont simvastatin
   RHYTHM: NSR since admission, no known h/o arrhythmia.
   -Monitor on tele
   -repeat EKG in AM
   .
   Presumed ARF: Seems to be resolved, Cre now 1.0. Baseline Cre unknown
   on admission, but a component of prerenal ARF is likely given
   hypotension in setting of tamponade.
   -follow Cre
   -renally dose meds
   DM-2: Continue home basal lantus dose with SSI coverage.
   .
   FEN: S/S today; replete lytes PRN.
   ACCESS: R PIV. Will attempt PICC placement today.
   PROPHYLAXIS:
   -DVT ppx with Heparin SC
   -Pain management with APAP
   -Bowel regimen with senna/colace
   CODE: Presumed full
   DISPO: CCU for now
   HCP: [**Name (NI) 186**] [**Telephone/Fax (1) 8335**]; Daughter [**Telephone/Fax (1) 8336**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2144-6-29**] 12:58 AM
   Arterial Line - [**2144-6-29**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Doctor Last Name 7443**], Harish.
   I would add the following remarks:
   History
   Borderline hypotension overnight.
   Weak with diffuse wheezing.
   ECHO this AM shows no reaccumulation of pericardial fluid.
   On antibiotics for postobstructive pneumonia.
   Physical Examination
   Diffuse wheezing.   Very weak.
   Medical Decision Making
   Will ask pulmonary to see re mgmt of postobstructive pneumonia.
   Discuss goals of care and DNR status with pt with nearing endstage lung
   cancer.
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Last Name (NamePattern1) 2736**], MD
   on:[**2144-6-30**] 11:34 ------
   R1 Addendum:
   We had a discussion with the patient
s husband and daughter around 1pm
   about goals of care.  They were very upset with having seen Mrs. [**Known lastname 8332**]
   intubated, and told us that she has not been healthy for almost six
   years now.  She has not wanted any treatment for her lung cancer and
   has told them before that she did not want any aggressive treatment to
   keep her alive.  They do not want her to be re-intubated if she has
   trouble breathing and do not want CPR or shocks if her heart stops.
   They would like to continue medical management but do not want a
   bronchoscopy if it means having her intubated.  They understand that a
   more
permanent
 peripheral IV could help and would like to try to
   secure a PICC line, but would prefer not to have an invasive IJ or
   sub-clavian line, though they may reconsider.  They would also like to
   avoid an NG-tube if possible.  They are eager to have her closer to
   [**Last Name (un) 5275**], but understand that she will remain at the [**Hospital1 19**] for hospital
   care.  They will try to talk to her some more and we will continue to
   discuss goals of care.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 8374**], MD
   on:[**2144-6-30**] 14:13 ------

2144-07-01 06:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Spoke to family.  They would like to continue non-invasive care, but
   do not want bronchoscopy or an NG-Tube at this time, and would prefer
   DNR/DNI. She has been living alone with husband who has been
   responsible for all of her care.
   - PICC delayed b/c of possible d/c today.
   - Seen by speech & swallow, cleared for thickened liquids with direct
   nursing supervision.
   - No interventional pulmonology at this time.
   - Focused echo showed that left ventricular systolic function is
   hyperdynamic (EF>75%), without signs of tamponade physiology like right
   ventricular collapse.  Similar to echo of [**6-29**].
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2144-6-29**] 09:30 AM
   Azithromycin - [**2144-6-29**] 10:10 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2144-6-30**] 04:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-7-1**] 06:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.2
C (97.2
   HR: 92 (88 - 102) bpm
   BP: 111/57(79) {88/34(53) - 124/70(85)} mmHg
   RR: 17 (17 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99.8 kg (admission): 95.4 kg
   Height: 62 Inch
                  Total In:
                                                                    980 mL
                  PO:
                                                                    480 mL
                  TF:
   IVF:
                                                                    500 mL
   Blood products:
   Total out:
                                                                    768 mL
                                                                    310 mL
   Urine:
                                                                    768 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    212 mL
                                                                   -310 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 100%
   ABG: 7.34/41/86.[**Numeric Identifier 143**]//-3
   PaO2 / FiO2: 109
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: diffuse, coarse rhonchi anteriorly.
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   325 K/uL
   6.9 g/dL
   70 mg/dL
   1.0 mg/dL
   20 mEq/L
   4.5 mEq/L
   53 mg/dL
   117 mEq/L
   145 mEq/L
   22.5 %
   6.6 K/uL
        [image002.jpg]
                             [**2144-6-29**]  06:02 AM
                             [**2144-6-29**]  08:38 AM
                             [**2144-6-29**]  01:48 PM
                             [**2144-6-29**]  01:57 PM
                             [**2144-6-29**]  08:11 PM
                             [**2144-6-29**]  09:44 PM
                             [**2144-6-30**]  04:25 AM
                             [**2144-6-30**]  06:23 AM
                             [**2144-6-30**]  06:32 AM
                             [**2144-7-1**]  05:25 AM
   WBC
   12.3
   6.8
   6.6
   Hct
   24.5
   26
   30.2
   24
   21.0
   23.4
   22.5
   Plt
   [**Telephone/Fax (3) 8383**]
   Cr
   1.0
   TCO2
   21
   21
   23
   23
   Glucose
   113
   82
   70
   Other labs: PT / PTT / INR:15.9/29.6/1.4, CK / CKMB /
   Troponin-T:61//0.01, ALT / AST:66/65, Alk Phos / T Bili:107/0.3, Lactic
   Acid:0.6 mmol/L, Albumin:3.6 g/dL, LDH:247 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.6 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   This is an 83 year old lady with a history of HTN, dyslipidemia and
   lung cancer s/p RLL resection who p/w to OSH with SOB and low BP and
   found to have a large pericardial effusion with cardiac tamponade,
   likely of malignant etiology, for which she was transferred here for
   pericardiocentesis. On arrival there are few prior hospital records
   available. She underwent pericardiocentesis in the cath lab, and 600cc
   of bloody fluid were removed resulting in normalization of systemic and
   pulmonary pressures.
   Goals of care: Moving towards more comfort driven care.  Hoping to have
   her move to hospice.
   -consult palliative care.
   Cardiac Tamponade: s/p pericardiocentesis. O/N some respiratory
   distress, BPs to 90-100s down from 120-130s, but recovered with
   stimulation. Hemodynamically stable this morning in 90s-100s. No pulsus
   on A-line tracing. Likely not a reaccumulation of pericardial
   effusion.  Cytology from pericardial fluid negative for malignant
   cells.
   -Hct stable for now
 tx goal >21.0
   RUL PNA: Read as likely post-obstructive pneumonia, likely CAP. Remains
   afebrile, WBC trending down. Given respiratory distress o/n.
   - day 4 of Levo/Flagyl for 10 day course.
   - sputum cx pending
   - follow fever curve and symptoms.
   - follow cultures (Blood pending, urine Ag Legionella neg)
   R Pleural effusion: Malignant vs infectious. Given tenuous BP in
   setting of pericardial effusion, will hold off on diuresis for now.
   UTI: U/A with WBCs and bacteria likely represents an uncomplicated UTI,
   appropriately covered by Levofloxacin for likely PNA.  Cultures came
   back negative.
   -continue antibiotics
   Respiratory Distress: Extubated, RR 18 this morning w/ strong cough.
   Requiring 95% FiO2 on FM.  Most likely pneumonia and tumor burden in
   lungs.
   -cont atrovent, albuterol nebs PRN
   -monitor on tele
   Acid/Base Disturbance: ABG today pH 7.34/41/87/23 on FiO2 95%. ABG post
   cath showed pH 7.26, down from 7.34 in ED with a lactate of 1.3 and
   normal PCO2. Given hypotension in the setting of cardiac tamponade,
   this may reflects a resolving lactic acidosis along with respiratory
   alkalosis in the setting of respiratory distress.
   .
   Anemia: Likely due to acute blood loss in setting of pericardial
   effusion and drainage. Likely also baseline chronic anemia given that
   she was taking iron pills at home.
   -stable, transfusion goal Hct>21.0
   .
   CORONARIES: No prior history of CAD and no CP during this episode.
   Cardiac enzymes negative for ACS.
   -cont simvastatin
   RHYTHM: NSR since admission, no known h/o arrhythmia.
   -Monitor on tele
   -repeat EKG in AM
   .
   Presumed ARF: Seems to be resolved, Cre now 1.0. Baseline Cre unknown
   on admission, but a component of prerenal ARF is likely given
   hypotension in setting of tamponade.
   -follow Cre
   DM-2: Continue home basal lantus dose with SSI coverage.
   .
   FEN: S/S cleared for thickened liquids w/ nurse supervision; replete
   lytes PRN.
   ACCESS: R PIV. No PICC placement necessary if going to facility.
   PROPHYLAXIS:
   -DVT ppx with Heparin SC
   -Pain management with APAP
   -Bowel regimen with senna/colace
   CODE: Presumed full
   DISPO: CCU for now
   HCP: [**Name (NI) 186**] [**Telephone/Fax (1) 8335**]; Daughter [**Telephone/Fax (1) 8336**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2144-6-29**] 12:58 AM
   Arterial Line - [**2144-6-29**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 803**].
   I would add the following remarks:
   History
   Extremely weak.    Intermittent resp distress.
   On antibiotics for postobstructive PNA.
   Pt and family do not want invasive procedures.  DNR status requested.
   Medical Decision Making
   Will discuss arrangements for hospice care.
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Last Name (NamePattern1) 2736**], MD
   on:[**2144-7-1**] 13:51 ------

2144-07-02 06:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**7-1**]:
   - Spoke to family. Pt r/o for rehab facilities, CM now working on
   nh/hospice placement near pt's home. Hospice consulted
   - Plan to keep Foley, d/c aline. No PICC as per family
   - A-line pulled, per nursing note pt to be transferred to NH today
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2144-6-29**] 09:30 AM
   Azithromycin - [**2144-6-29**] 10:10 AM
   Levofloxacin - [**2144-7-1**] 11:14 PM
   Metronidazole - [**2144-7-1**] 11:14 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2144-7-1**] 11:14 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-7-2**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.3
C (97.3
   HR: 97 (84 - 100) bpm
   BP: 106/44(60) {106/44(60) - 106/44(60)} mmHg
   RR: 19 (15 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.6 kg (admission): 95.4 kg
   Height: 62 Inch
                  Total In:
                                                                  1,080 mL
                                                                    180 mL
   PO:
                                                                  1,080 mL
                                                                    180 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    697 mL
                                                                    350 mL
   Urine:
                                                                    697 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    383 mL
                                                                   -170 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: 02 mask in place.
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: diffuse, coarse rhonchi anteriorly.  Frequent
   cough productive of small amounts of white sputum.
   Abdominal: Soft, Bowel sounds present
   Extremities: Warm and well-perfused.
   Neurologic: Alert and oriented x2
   Labs / Radiology
   316 K/uL
   7.5 g/dL
   105 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.7 mEq/L
   31 mg/dL
   116 mEq/L
   146 mEq/L
   24.1 %
   5.4 K/uL
        [image002.jpg]
                             [**2144-6-29**]  08:38 AM
                             [**2144-6-29**]  01:48 PM
                             [**2144-6-29**]  01:57 PM
                             [**2144-6-29**]  08:11 PM
                             [**2144-6-29**]  09:44 PM
                             [**2144-6-30**]  04:25 AM
                             [**2144-6-30**]  06:23 AM
                             [**2144-6-30**]  06:32 AM
                             [**2144-7-1**]  05:25 AM
                             [**2144-7-2**]  05:25 AM
   WBC
   12.3
   6.8
   6.6
   5.4
   Hct
   24.5
   26
   30.2
   24
   21.0
   23.4
   22.5
   24.1
   Plt
   [**Telephone/Fax (3) 8404**]16
   Cr
   1.0
   0.9
   0.8
   TCO2
   21
   23
   23
   Glucose
   82
   70
   153
   105
   Other labs: PT / PTT / INR:15.7/31.1/1.4, CK / CKMB /
   Troponin-T:61//0.01, ALT / AST:66/65, Alk Phos / T Bili:107/0.3, Lactic
   Acid:0.6 mmol/L, Albumin:3.6 g/dL, LDH:247 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.5 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   This is an 83 year old lady with a history of HTN, dyslipidemia and
   lung cancer who to OSH with SOB and low BP and found to have a large
   pericardial effusion with cardiac tamponade, likely of malignant
   etiology, for which she was transferred here for pericardiocentesis. On
   arrival there are few prior hospital records available. She underwent
   pericardiocentesis in the cath lab, and 600cc of bloody fluid were
   removed resulting in normalization of systemic and pulmonary pressures.
   Goals of care: Moving towards more comfort driven care.  Hoping to have
   her move to hospice.
   - Per nursing, has been approved to be moved to nh/hospice nearer to
   [**Hospital1 1233**].
   - Occasionally complains of pain at drain site, responds well to
   percocet.  Frequent nausea treated with Zofran and Phenergan.
   Cardiac Tamponade: s/p pericardiocentesis. Occasional respiratory
   distress with coughing, recovers well by calming down. Hemodynamically
   stable this morning in 90s-100s. Cytology from pericardial fluid
   negative for malignant cells.
   RUL PNA: Read as likely post-obstructive pneumonia, likely CAP. Remains
   afebrile, WBC trending down, remains afebrile.  Sputum culture shows
   rare yeast, but clinical picture does not fit systemic yeast infection.
   - day 5 of Levo/Flagyl for 10 day course.
   - follow fever curve and symptoms.
   - follow cultures (Blood pending, urine Ag Legionella neg, sputum cx
   rare yeast)
   R Pleural effusion: Malignant vs infectious. Given tenuous
   hemodynamics, will not diurese at this time.
   UTI: U/A with WBCs and bacteria likely represents an uncomplicated UTI,
   appropriately covered by Levofloxacin for likely PNA.  Cultures came
   back negative.
   -continue antibiotics
   Respiratory Distress: Extubated, RR 18 this morning w/ strong cough.
   Requiring 95% FiO2 on FM.  Most likely pneumonia and tumor burden in
   lungs. Responds to calming and suctioning
   -cont atrovent, albuterol nebs PRN
   Acid/Base Disturbance: ABG today pH 7.34/41/87/23 on FiO2 95%. ABG post
   cath showed pH 7.26, down from 7.34 in ED with a lactate of 1.3 and
   normal PCO2. Given hypotension in the setting of cardiac tamponade,
   this may reflects a resolving lactic acidosis along with respiratory
   alkalosis in the setting of respiratory distress.
   .
   Anemia: Likely due to acute blood loss in setting of pericardial
   effusion and drainage. Likely also baseline chronic anemia given that
   she was taking iron pills at home.  Hct has been stable, today 24.0.
   -stable, transfusion goal Hct>21.0
   .
   CORONARIES: No prior history of CAD and no CP during this episode.
   Cardiac enzymes negative for ACS.  Off simvastatin given comfort focus
   of care.
   RHYTHM: NSR since admission, no known h/o arrhythmia.
   -Monitor on tele
   .
   Presumed ARF: Seems to be resolved, Cre now 1.0. Baseline Cre unknown
   on admission, but a component of prerenal ARF is likely given
   hypotension in setting of tamponade.
   -follow Cre
   DM-2: Continue home basal lantus dose with SSI coverage.
   .
   FEN: S/S cleared for thins w/ crushed pills; replete lytes PRN.
   ACCESS: R PIV. No PICC placement as going to hospice.
   PROPHYLAXIS:
   -DVT ppx with Heparin SC
   -Pain management with APAP
   -Bowel regimen with senna/colace
   CODE: DNR /DNI, have not discussed Do-Not-Rehospitalize
   DISPO: CCU for now
   HCP: [**Name (NI) 186**] [**Telephone/Fax (1) 8335**]; Daughter [**Telephone/Fax (1) 8336**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2144-6-29**] 12:58 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: